US07084280B2
240 mg of 1-(5-chlorobenzotriazol-1-yl)-propan-2-one are dissolved in 4 ml of a 2-molar solution of ammonia in ethanol, then 64 mg of sodium cyanide and 91 mg of ammonium chloride are added and the mixture is stirred over night at room temperature. The reaction mixture is subsequently concentrated by evaporation in a vacuum, dissolved again in ethyl acetate, and washed with water and saturated sodium chloride solution. The organic phase is separated, dried with magnesium sulphate and concentrated by evaporation. 2-amino-3-(5-chlorobenzotriazol-1-yl)-2-methylpropionitrile is thus obtained.

reactant | 1-(5-chlorobenzotriazol-1-yl)-propan-2-one | 240 mg | ClC1=CC2=C(N(N=N2)CC(C)=O)C=C1 | C9H8ClN3O
reactant | sodium cyanide | 64 mg | [C-]#N.[Na+]
reactant | ammonium chloride | 91 mg | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
solvent | ammonia | N | H3N
product | 2-amino-3-(5-chlorobenzotriazol-1-yl)-2-methylpropionitrile | NC(C#N)(CN1N=NC2=C1C=CC(=C2)Cl)C | C10H10ClN5
